US07994203B2
1-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-propan-1-one
A solution of 1-(2-hydroxy-4-methoxyphenyl)propan-1-one (1 g, 5.55 mmol) in DMF (50 ml) is treated with potassium carbonate (0.920 g, 6.66 mmol) and stirred at RT for approximately 10 mins. 1-Bromo-2-methoxyethane (0.771 g, 5.55 mmol) is added and the mixture is stirred at RT overnight. The solvent is removed in vacuo and the residue is partitioned between in EtOAc/H2O. The organic phase is separated and washed with sat Na2CO3, 1M HCl, brine, dried (MgSO4) and concentrated in vacuo to afford a dark green/brown oil. Purification by chromatography on silica gel (50 g+70 g) eluting with 20% EtOAc/iso-hexane affords the title compound; MS m/z 239.2 [M+H]+.

reactant | 1-(2-hydroxy-4-methoxyphenyl)propan-1-one | 5.55 mmol, 1 g | OC1=C(C=CC(=C1)OC)C(CC)=O | C10H12O3
reactant | potassium carbonate | 6.66 mmol, 0.920 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Bromo-2-methoxyethane | 5.55 mmol, 0.771 g | BrCCOC | C3H7BrO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-propan-1-one | COC1=CC(=C(C=C1)C(CC)=O)OCCOC | C13H18O4
